US07795236B2
8-[2-(3-Ethylaminopropoxy)biphenyl-4-ylmethylamino]-adenosine
A mixture of 8-{3-[3-(N-benzyloxycarbonyl-N-ethyl-amino)propoxy]biphenyl-4-ylmethylamino}adenosine (0.18 g) and 10% palladium on carbon (43.8 wt % H2O, 0.21 g) in methanol (5.3 mL) was stirred at room temperature for 24 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on amino-propylated silica gel (eluent: dichloromethane/methanol=8/1 to 6/1) to give the title compound (0.12 g).

reactant | 8-{3-[3-(N-benzyloxycarbonyl-N-ethyl-amino)propoxy]biphenyl-4-ylmethylamino}adenosine | 0.18 g | C(C1=CC=CC=C1)OC(=O)N(CC)CCCOC=1C=C(C=CC1CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N)C1=CC=CC=C1 | C36H41N7O7
reactant | methanol | 5.3 mL | CO | CH4O
catalyst | palladium on carbon | 0.21 g | [Pd] | Pd
product | 8-[2-(3-Ethylaminopropoxy)biphenyl-4-ylmethylamino]-adenosine | 0.12 g | C(C)NCCCOC1=C(C=CC(=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N)C1=CC=CC=C1 | C28H35N7O5
